### PR TITLE
[Merged by Bors] - fix: improve simp lemmas around PartENat.ofENat

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/PartENat.lean [hunk 1]
```diff
@@ -82,15 +82,15 @@ lemma toPartENat_le_iff_of_le_aleph0 {c c' : Cardinal} (h : c ≤ ℵ₀) :
   lift c to ℕ∞ using h
   simp only [← partENatOfENat_toENat, toENat_ofENat, enat_gc _,
    ← PartENat.withTopOrderIso.symm.le_iff_le]
-  rfl
+  simp only [PartENat.ofENat_le, map_le_map_iff]
```
Comment (timotree3) [inline Mathlib/SetTheory/Cardinal/PartENat.lean:85]: Is there a reason to have two `simp only` in a row? Can this just be changed to `simp` since it's the end of a proof?

File: Mathlib/SetTheory/Cardinal/PartENat.lean [hunk 2]
```diff
@@ -82,15 +82,15 @@ lemma toPartENat_le_iff_of_le_aleph0 {c c' : Cardinal} (h : c ≤ ℵ₀) :
...
 #align to_part_enat_le_iff_le_of_le_aleph_0 Cardinal.toPartENat_le_iff_of_le_aleph0
 
 lemma toPartENat_le_iff_of_lt_aleph0 {c c' : Cardinal} (hc' : c' < ℵ₀) :
     toPartENat c ≤ toPartENat c' ↔ c ≤ c' := by
   lift c' to ℕ using hc'
   simp only [← partENatOfENat_toENat, toENat_nat, ← toENat_le_nat,
    ← PartENat.withTopOrderIso.symm.le_iff_le]
-  rfl
+  simp only [PartENat.ofENat_le, toENat_le_nat, map_le_map_iff]
```
Comment (timotree3) [inline Mathlib/SetTheory/Cardinal/PartENat.lean:93]: Same as above

**Comment by riccardobrasca** [comment]
Taking into account the comments about two consecutive `simp` LGTM, thanks!

bors d+

**Comment by Ruben-VandeVelde** [comment]
These are sensitive to the order of applying the `simp` lemmas, so I used `simp_rw` instead.

bors r+
